US04910200
(c) 3-(Biphenyl-4-yl)-3-(3,4-dimethoxyphenyl)acrylic acid morpholide
4.7 g of carbonyldiimidazole were added in portions to a solution of 9.4 g of 3-(biphenyl-4-yl)-3-(3,4-dimethoxyphenyl)acrylic acid in 50 ml of anhydrous tetrahydrofuran. After the evolution of CO2 had subsided, 2.5 g of morpholine were added, and the mixture was boiled for 1 hour. After evaporation, the residue was taken up in toluene/water, and the aqueous phase was discarded. The organic phase was washed once more with water, then dried and evaporated. The crude title compound was isolated with a yield of 10.5 g. The crude product was purified on silica gel with toluene/ acetone (9:1). 6.2 g of the title compound were obtained in the form of a yellow resin, Rf: 0.56 ]l (silica gel, toluene/ acetone 7:3).

reactant | carbonyldiimidazole | 4.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-(biphenyl-4-yl)-3-(3,4-dimethoxyphenyl)acrylic acid | 9.4 g | C1(=CC=C(C=C1)C(=CC(=O)O)C1=CC(=C(C=C1)OC)OC)C1=CC=CC=C1 | C23H20O4
reactant | CO2 | C(=O)=O | CO2
reactant | morpholine | 2.5 g | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(Biphenyl-4-yl)-3-(3,4-dimethoxyphenyl)acrylic acid morpholide | 6.2 g | C1(=CC=C(C=C1)C(=CC(=O)N1CCOCC1)C1=CC(=C(C=C1)OC)OC)C1=CC=CC=C1 | C27H27NO4
